US06043366
8-Cyclodecyl-3-(2-hydroxy-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
(8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-acetic acid methyl ester (0.8 mmol) was dissolved in ethyleneglycol dimethylether (2 ml). Lithiumchloride (0.8 mmol) and sodium borohydride (0.8 mol) were added. After stirring for 4 h the reaction mixture was distributed between dichloromethane/water/methanol. The organic layer was separated, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography (SiO2, ethyl acetate). Formation of the HCl-salt yielded the title compound as a white solid, 0.124 g, m. p. 190° C. and MS: m/e=414.5 (M+H+).

reactant | (8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-acetic acid methyl ester | 0.8 mmol | COC(CN1CN(C2(C1=O)CCN(CC2)C2CCCCCCCCC2)C2=CC=CC=C2)=O | C26H39N3O3
reactant | Lithiumchloride | 0.8 mmol | [Cl-].[Li+]
reactant | sodium borohydride | 0.8 mol | [BH4-].[Na+]
reactant | dichloromethane water methanol | ClCCl.O.CO
solvent | ethyleneglycol dimethylether | 2 ml | COCCOC | C4H10O2
product | 8-Cyclodecyl-3-(2-hydroxy-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCO)=O)CC1 | InChI=1S/C25H39N3O2.ClH/c29-20-19-27-21-28(23-13-9-6-10-14-23)25(24(27)30)15-17-26(18-16-25)22-11-7-4-2-1-3-5-8-12-22;/h6,9-10,13-14,22,29H,1-5,7-8,11-12,15-21H2;1H
